US04826990
3-[(2-Phenyl-6-pyridinyl)methoxy]benzenamine
A supension of 6.2 g (0.02 mol) of 6-[(3-nitrophenoxy)methyl]-2-phenylpyridine in a solution of 50.0 g (0.18 mol) of ferrous sulfate heptahydrate and 0.3 ml of concentrated hydrochloric acid in 100 ml of water is heated on a steambath of 90° C. Concentrated ammonium hydroxide is added in 3 increments of 10 ml over a period of 10 minutes. Heating is discontinued and the reaction mixture is allowed to cool over a period of 45 minutes while vigorously stirring. The reaction mixture is diluted with 300 ml of water/300 ml of ethyl acetate and filtered through Celite. The filter cake is extracted once with 300 ml of ethyl acetate, and the combined ethyl acetate solution is concentrated in vacuo to obtain an oil (4.8 g). The oil is chromatographed with ethyl acetate/hexane as eluent. Fractions 8-11 are combined and concentrated to obtain 2.0 g (37%) of an oil, MS (CI) 277 (N+H). The product is used without further purification in subsequent reactions.

reactant | 6-[(3-nitrophenoxy)methyl]-2-phenylpyridine | 0.02 mol, 6.2 g | [N+](=O)([O-])C=1C=C(OCC2=CC=CC(=N2)C2=CC=CC=C2)C=CC1 | C18H14N2O3
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 100 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(2-Phenyl-6-pyridinyl)methoxy]benzenamine | 4.8 g | C1(=CC=CC=C1)C1=NC(=CC=C1)COC=1C=C(C=CC1)N | C18H16N2O
